US06492412B2
4-isobutylbenzylbromide
HBr gas was bubbled through a solution of (4-isobutyl-phenyl)-methanol (5 g, 28 mmol) in Et2O (50 mL) for 10-15 minutes. The reaction was stirred for 1 h and was poured onto ice (100 g). Et2O was added and the organic solution was washed with brine (2×). The organic solution was dried (MgSO4), filtered, and concentrated to provide the title compound (6 g). 1H NMR (400 MHz, CDCl3) δ 7.28 (d, 2H), 7.10 (d, 2H), 4.49 (s, 2H), 2.45 (d, 2H), 1.84 (m, 1H), 0.89 (d, 6H).

reactant | HBr | Br | BrH
reactant | (4-isobutyl-phenyl)-methanol | 28 mmol, 5 g | C(C(C)C)C1=CC=C(C=C1)CO | C11H16O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 4-isobutylbenzylbromide | 6 g | C(C(C)C)C1=CC=C(CBr)C=C1 | C11H15Br
